US08703810B2
Step 3: 3-(4-Hydroxy-phenyl)-2-(4-iodo-phenyl)-4-trifluoromethyl-2H-chromen-6-ol
A mixture of 2-(4-iodo-phenyl)-6-(tetrahydro-pyran-2-yloxy)-3-[4-(tetrahydro-pyran-2-yloxy)-phenyl]-4-trifluoromethyl-chroman-4-ol (3.0 g, 5.7 mmol) and TsOH (0.6 g, 3.18 mmol) in toluene (60 mL) was refluxed for 18 h, removing water with a Dean Stark trap. The mixture was cooled to room temperature and concentrated. The residue was purified by silica gel column chromatography (PE/EA=10/˜14/1) to afford a white solid (1.5 g). 1H NMR (DMSO-d6): δ 9.17 (s, 1H), 9.07 (s, 1H), 7.56-7.54 (m, 2H), 7.35-6.95 (m, 5H), 6.67-6.50 (m, 4H), 5.73 (s, 1H). LCMS: 509 (M−H)−.

reactant | 2-(4-iodo-phenyl)-6-(tetrahydro-pyran-2-yloxy)-3-[4-(tetrahydro-pyran-2-yloxy)-phenyl]-4-trifluoromethyl-chroman-4-ol | 5.7 mmol, 3.0 g | IC1=CC=C(C=C1)C1OC2=CC=C(C=C2C(C1C1=CC=C(C=C1)OC1OCCCC1)(O)C(F)(F)F)OC1OCCCC1 | C32H32F3IO6
reactant | TsOH | 3.18 mmol, 0.6 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(4-Hydroxy-phenyl)-2-(4-iodo-phenyl)-4-trifluoromethyl-2H-chromen-6-ol | 1.5 g | OC1=CC=C(C=C1)C=1C(OC2=CC=C(C=C2C1C(F)(F)F)O)C1=CC=C(C=C1)I | C22H14F3IO3
